US05665749
2-Methyl-5-bromomethyl-1,1-dioxo-benzo[d]isothiazole-3-one
A solution of 2,5-dimethyl-1,1-dioxo-benzo[d]isothiazole-3-one (5.8 g) in carbon tetrachloride (100 ml) containing 2,2-azo-bis(2-methyl-propionitrile) (50 mg) and 4.8 g of N-bromosuccinimide was heated at reflux for about 2 hours.

reactant | 2,5-dimethyl-1,1-dioxo-benzo[d]isothiazole-3-one | 5.8 g | CN1S(C2=C(C1=O)C=C(C=C2)C)(=O)=O | C9H9NO3S
reactant | N-bromosuccinimide | 4.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Methyl-5-bromomethyl-1,1-dioxo-benzo[d]isothiazole-3-one | CN1S(C2=C(C1=O)C=C(C=C2)CBr)(=O)=O | C9H8BrNO3S
